US05223525
Preparation of 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-amino-2-bromo-4-trifluoromethylsulfenylimidazole
To a solution of 1.35 g (3.40 mmole) of 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-amino-4-trifluoromethylsulfenylimidazole in 20 ml of chloroform was added 0.5 ml (9.76 mmole) of bromine. The resulting mixture was stirred at RT under a nitrogen atmosphere for 2 hr. The mixture was then evaporated to remove the excess of bromine and the residue was partioned between water and methylene chloride. The organic layer was dried over anhydrous sodium sulfate and solvent was removed. The residue was purified by flash column chromatography on silica gel using 7% ethyl acetate in hexane to give 200 mg (13.62% yield) of the desired product, mp 154° C.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-amino-4-trifluoromethylsulfenylimidazole | 3.40 mmole, 1.35 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C=NC(=C1N)SC(F)(F)F | C11H5Cl2F6N3S
reactant | bromine | 9.76 mmole, 0.5 ml | BrBr | Br2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-amino-2-bromo-4-trifluoromethylsulfenylimidazole | 200 mg, 13.62% yield | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C(=NC(=C1N)SC(F)(F)F)Br | C11H4BrCl2F6N3S
